US05300511
Step 1) Synthesis of 2-dimethoxymethyl-2-methyl-4-oxo-3,4-dihydro-2H-1-benzopyran
In 250 ml of toluene were dissolved 30 g (0.22 mmole) of 2-hydroxy acetophenone and 33.8(0.29 mmole) of pyruvic aldehyde dimethyl acetal; and, 6.3 ml (0.09 mmole) of pyridine was added thereto. After stirring at room temperature 30 minutes, the reactants were heated to reflux for 5 hours using Dean-Stark apparatus. The solvent was removed under reduced pressure and 100 ml of 2N HCl aqueous solution was added. The resultant solution was stirred for 1 hour at room temperature, extracted with ethyl acetate (20 ml×2), washed with 100 ml of water and then with 50 ml of saturated sodium chloride aqueous solution and purified by silica gel column chromatography using a mixture of hexane and ethyl acetate (4:1) to obtain 39 g (0.16 mmole, yield 75%) of the title compound as a white solid.

reactant | 2-hydroxy acetophenone | 0.22 mmole, 30 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | pyruvic aldehyde dimethyl acetal | CC(=O)C(OC)OC | C5H10O3
reactant | pyridine | 0.09 mmole, 6.3 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-dimethoxymethyl-2-methyl-4-oxo-3,4-dihydro-2H-1-benzopyran | 0.16 mmole, 39 g, yield 75% | COC(C1(OC2=C(C(C1)=O)C=CC=C2)C)OC | C13H16O4
